US06872731B2
3-[3-(7-(2-Hydroxyethoxy)iminomethylimidazo[1,2-α]pyridin-3-yl)phenyl]thiophene-2-carbonitrile
The title compound was prepared in a similar manner to that described in Example 14 using O-(2-hydroxyethyl)hydroxylamine hydrochloride (93 mg, 0.82 mmol) and 3-[3-(7-formylimidazo[1,2-α]pyridin -3-yl)phenyl]thiophene-2-carbonitrile (67 mg, 0.20 mmol) to afford a white crystalline solid (43 mg, 55%), essentially as a single geometric isomer, m.p. 224-225° C. 1H NMR (360 MHz, CDCl3) δH 3.94-3.97 (2H, m), 4.32-4.36 (2H, m), 7.31-7.38 (2H, m), 7.64-7.72 (5H, m), 7.80 (1H, s), 7.88 (1H, s), 8.17 (1H, s), 8.47 (1H, d, J 7); m/z (ES+) 389 (M++H).

reactant | O-(2-hydroxyethyl)hydroxylamine hydrochloride | 0.82 mmol, 93 mg | Cl.OCCON
reactant | 3-[3-(7-formylimidazo[1,2-α]pyridin -3-yl)phenyl]thiophene-2-carbonitrile | 0.20 mmol, 67 mg | C(=O)C1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)C2=C(SC=C2)C#N | C19H11N3OS
product | 3-[3-(7-(2-Hydroxyethoxy)iminomethylimidazo[1,2-α]pyridin-3-yl)phenyl]thiophene-2-carbonitrile | OCCON=CC1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)C2=C(SC=C2)C#N | C21H16N4O2S
